US05208224
(±)-2-[[2,6-Bis(1-methylethyl)phenyl]amino2-oxoethyl]phenylphosphinic Acid, 1-Methyltridecyl Ester
In a process analogous to Example 7, using (±)-[2-[[2,6-bis(1-methylethyl)phenyl]amino]-2-oxoethyl]phenylphosphinic acid in place of 25 (±)-[2-[[2,6-bis(1-methylethyl)phenyl]amino]-2-oxoethyl]phosphonic acid, ethyl ester and 2-tetradecanol in place of 1-nonanol, the title compound is obtained as a light yellow oil; IR (film) 3232, 2962, 2925, 2855, 1684, 1522, 1467, 1217, 987, 968 cm-1 ; 1H NMR (250 MHz, CDCl3) (mixture of diastereomers) 8.47 (br s, 1 H), 7.88 (dd, J=13 and 8 Hz, 2 H), 7.64 7.45 (m, 3 H), 7.30-7.10 (m, 3 H), 4.55-4.30 (m, 1H), 3.40-3.11 (m, 2 H), 3.35-2.60 (m, 2 H), 1.95-0.90 (m, 28 H), 1.16 (d, J=7 Hz, 12 H), 0.88 (t, J=7 Hz, 3 H); Mass spectrum, m/e (relative intensity) 556 (9), 555 (9), 388 (15), 360 (92), 342 (11), 201 (100), 177 (36), 157 (40), 141 (21), 111 (17), 97 (29).

reactant | (±)-[2-[[2,6-bis(1-methylethyl)phenyl]amino]-2-oxoethyl]phenylphosphinic acid | CC(C)C1=C(C(=CC=C1)C(C)C)NC(CP(O)(=O)C1=CC=CC=C1)=O | C20H26NO3P
reactant | (±)-[2-[[2,6-bis(1-methylethyl)phenyl]amino]-2-oxoethyl]phosphonic acid, ethyl ester | CC(C)C1=C(C(=CC=C1)C(C)C)NC(CP(OCC)([O-])=O)=O
reactant | 2-tetradecanol | CC(CCCCCCCCCCCC)O | C14H30O
product | (±)-2-[[2,6-Bis(1-methylethyl)phenyl]amino2-oxoethyl]phenylphosphinic Acid, 1-Methyltridecyl Ester | CC(C)C1=C(C(=CC=C1)C(C)C)NC(CC1=C(C=CC=C1)P(OC(CCCCCCCCCCCC)C)=O)=O | C34H54NO3P
